US05700779
N-Phenethylglycine benzyl ester hydrochloride
A solution of benzyl-2-bromoacetate (3.3 ml, 20.0 mmol) in CH2 Cl2 (30 ml) was added drop-wise to a solution of phenethylamine (12.6 ml, 100 mmol) in CH2Cl2 (30 ml) stirring at 0° C. After warming to room temperature the reaction was stirred for 24 hours, then filtered and the solvent evaporated in vacuo. The resulting residue was dissolved in ethyl acetate, and washed with brine and dried over sodium sulfate. The ethyl acetate was evaporated in vacuo. The crude material was purified using silica gel flash column chromatography eluting sequentially with hexane and ethyl acetate-hexane (9:1, v/v). The fraction containing the product had traces of benzyl-2-bromoacetate as an impurity. This portion was redissolved in CHCl3 and washed with 1N HCl. The chloroform layer was dried and the HCl salt was precipitated with petroleum ether. Yield 2.3 g colorless solid. 1H NMR (CDCl3) δ 1.95 (br s, 1H), 2.73-2.9 (m, 3H), 3.44 (s, 2H), 5.12 (s, 2H), 7.13-7.36 (m, 10H). 13C NMR (CDCl3) 6 36.17, 50.46, 50.63, 66.32, 26.06, 128.18, 128.3, 128.4, 128.50, 135.4, 139.4, 171.88.

reactant | benzyl-2-bromoacetate | 20.0 mmol, 3.3 ml | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | phenethylamine | 100 mmol, 12.6 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | Cl2 | 30 ml | ClCl | Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | N-Phenethylglycine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CNCCC1=CC=CC=C1)=O | InChI=1S/C17H19NO2.ClH/c19-17(20-14-16-9-5-2-6-10-16)13-18-12-11-15-7-3-1-4-8-15;/h1-10,18H,11-14H2;1H
